US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-2-[N-(3,4-dimethoxyphenyl)-methylamino]-ethylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and 2-[N-(3,4-dimethoxyphenyl)-methylamino]-ethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 2-[N-(3,4-dimethoxyphenyl)-methylamino]-ethylamine | COC=1C=C(C=CC1OC)N(CCN)C | C11H18N2O2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-2-[N-(3,4-dimethoxyphenyl)-methylamino]-ethylamine | COC1=CC2=C(CC(N(CC2)CCCNCCN(C2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C26H37N3O5
